US04077930
Acrylamide/2-Acrylamido-2-Methyl Propyl Sulfonic Acid (85/15 Mole Percent, Batch)
Borax (0.6 g.) and 50% aqueous sodium hydroxide (7.2 g.) were dissolved in 52.4 g. of distilled water. 2-acrylamido-2-methyl propyl sulfonic acid (2-AMPSA) (20.4 g.) and acrylamide (AM) (39.4 g.) were dissolved in the caustic solution while maintaining the temperature at <20° C. by cooling. The pH of the final solution was adjusted to 8.0; the solution was then combined with Tween 85 (30.0 g.) and Mentor 28 (50.0 g.). The reaction was conducted according to the procedure of Example 31. 0.5 ml of a 0.01% FAS solution and 0.1 ml of Lupersol 11 was used; polymerization was maintained at <68° C. by cooling. The product was a stable emulsion (5000 cps viscosity).

reactant | sodium hydroxide | 7.2 g | [OH-].[Na+]
reactant | 2-acrylamido-2-methyl propyl sulfonic acid | 20.4 g | C(C=C)(=O)NC(CS(=O)(=O)O)(C)C | C7H13NO4S
reactant | acrylamide | 39.4 g | C(C=C)(=O)N | C3H5NO
reactant | Lupersol 11 | 0.1 ml | CC(C)(C)C(=O)OOC(C)(C)C | C9H18O3
solvent | water | O | H2O
product | Acrylamide 2-Acrylamido-2-Methyl Propyl Sulfonic Acid | C(C=C)(=O)N.C(C=C)(=O)NC(CS(=O)(=O)O)(C)C | InChI=1S/C7H13NO4S.C3H5NO/c1-4-6(9)8-7(2,3)5-13(10,11)12;1-2-3(4)5/h4H,1,5H2,2-3H3,(H,8,9)(H,10,11,12);2H,1H2,(H2,4,5)
